US08193164B2
Step AAI1: {2-Chloro-9-[(1R,4S)-4-(di-Boc-amino)-cyclopent-2-enyl]-9H-purin-6-yl}-(2,2-diphenyl-ethyl)-amine
(1S,2R,3S,5R)-3-(Di-Boc-amino)-5-(2,6-dichloro-purin-9-yl)-cyclopentane-1,2-diol (13.0 g, 27.66 mmol) is dissolved in THF (250 mL) under an atmosphere of argon. DIPEA (4.28 g, 33.19 mmol) is added followed by 2,2-diphenylethylamine (6.0 g, 30.43 mmol) and the reaction mixture is stirred at 50° C. The reaction is shown to be complete by LCMS after 18 hours. The solvent is removed in vacuo and the reaction mixture is partitioned between DCM (250 mL) and 0.1 M HCl (250 mL). The organic layer is washed with water (200 mL) and brine (200 mL), dried over MgSO4, filtered and the solvent is removed in vacuo to give the title compound.

reactant | (1S,2R,3S,5R)-3-(Di-Boc-amino)-5-(2,6-dichloro-purin-9-yl)-cyclopentane-1,2-diol | 27.66 mmol, 13.0 g | C(=O)(OC(C)(C)C)N([C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)O)O)C(=O)OC(C)(C)C | C20H27Cl2N5O6
reactant | DIPEA | 33.19 mmol, 4.28 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,2-diphenylethylamine | 30.43 mmol, 6.0 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | {2-Chloro-9-[(1R,4S)-4-(di-Boc-amino)-cyclopent-2-enyl]-9H-purin-6-yl}-(2,2-diphenyl-ethyl)-amine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H39ClN6O4
